US04128644
2-[[[(Phenylamino)carbonyl]oxy]methyl]-pyrazolo[1,5-c]-quinazolin-5(6H)-one
2.0 g (0.0093 mole) of 2-(hydroxymethyl)pyrazolo-[1,5-c]quinazolin-5(6H)-one prepared as described in Example 6B and 1.55 ml (≅1.7 g or 0.014 mole) of 98% phenylisocyanate are refluxed in 20 ml of dry pyridine under N2 for 1 hour. The crude product is poured onto 200 ml of ice-water layered with ethyl acetate (50 ml) and stirred for 30 minutes. The precipitates that form are filtered off, air-dried and taken up in dioxane (150 ml). The solution is filtered while hot and the clear filtrate concentrated down to a volume of 100 ml and cooled. The precipitates are filtered off and dried in vacuo at 85°. Yield 2.45 g, 78.8% crude yield.

reactant | 2-(hydroxymethyl)pyrazolo-[1,5-c]quinazolin-5(6H)-one | 0.0093 mole, 2.0 g | OCC1=NN2C(NC=3C=CC=CC3C2=C1)=O | C11H9N3O2
reactant | phenylisocyanate | 0.014 mole, 1.55 ml, 1.7 g | C1(=CC=CC=C1)N=C=O | C7H5NO
reactant | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | 2-[[[(Phenylamino)carbonyl]oxy]methyl]-pyrazolo[1,5-c]-quinazolin-5(6H)-one | C1(=CC=CC=C1)NC(=O)OCC1=NN2C(NC=3C=CC=CC3C2=C1)=O | C18H14N4O3
